US08084448B2
A. 2,6-Dihydroxybenzoic Acid Benzyl Ester
To a solution of 2,6-dihydroxybenzoic acid (500 mg, 3.24 mmol) in ethanol (8 mL) is added NaOH (130 mg, 3.24 mmol). After the mixture is stirred at RT for 3 h, the solvent is removed under reduced pressure. The resulting sodium salt is dissolved in DMF (10 mL) then benzyl bromide (0.39 mL, 3.24 mmol) is added and the mixture is stirred at RT for 18 h. Water is added and the mixture is extracted with EtOAc. The organic phase is washed with water and brine then is dried over sodium sulfate. The solvent is removed under reduced pressure and the residue is purified by flash chromatography using hexane/EtOAc (10:1) as eluent to give the title compound as an oil.

reactant | 2,6-dihydroxybenzoic acid | 3.24 mmol, 500 mg | OC1=C(C(=O)O)C(=CC=C1)O | C7H6O4
reactant | NaOH | 3.24 mmol, 130 mg | [OH-].[Na+]
reactant | benzyl bromide | 3.24 mmol, 0.39 mL | C(C1=CC=CC=C1)Br | C7H7Br
reactant | Water | O | H2O
solvent | ethanol | 8 mL | C(C)O | C2H6O
product | 2,6-Dihydroxybenzoic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(C1=C(C=CC=C1O)O)=O | C14H12O4
